US07223738B2
4-(3-Phenyl-1,8-naphthyridin-2-yl)benzaldehyde (10-1)
2-Chloro-3-phenyl-1,8-naphthyridine (Rani, H. S.; Mogilaiah, K.; Sreenivasulu, B. Indian J. Chem. Sect. B. 1996, 35, 106; 154 mg, 0.64 mmole), 4-formylphenylboronic acid (144 mg, 0.96 mmole), 2 M Na2CO3 (0.64 mL, 1.28 mmole), and Pd(PPh3)4 (37 mg, 0.03 mmole) were combined in dioxane (3 mL) in a sealed microwave vessel. The mixture was degassed (3× vacuum/N2) then microwave irridiated at 150° C. for 30 min. The mixture was diluted with H2O and extracted with EtOAc (3×). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash column (60% EtOAc/hexanes) gave the title compound as a yellow foam (10-1): 1H-NMR (500 MHz, CDCl3) δ 10.02 (s, 1 H), 9.19 (dd, J=1.95, 2.20 Hz, 1 H), 8.28 (dd, J=1.95, 6.35 Hz, 1 H), 8.26 (s, 1 H), 7.79 (d, J=8.30 Hz, 2 H), 7.73 (d, J=8.05 Hz, 2 H), 7.57 (m, 1H), 7.35 (m, 2H), 7.27 (m, 3 H).

reactant | 2-Chloro-3-phenyl-1,8-naphthyridine | 0.64 mmole, 154 mg | ClC1=NC2=NC=CC=C2C=C1C1=CC=CC=C1 | C14H9ClN2
reactant | 4-formylphenylboronic acid | 0.96 mmole, 144 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | Na2CO3 | 1.28 mmole, 2 M, 0.64 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.03 mmole, 37 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-Phenyl-1,8-naphthyridin-2-yl)benzaldehyde | C1(=CC=CC=C1)C=1C(=NC2=NC=CC=C2C1)C1=CC=C(C=O)C=C1 | C21H14N2O
